US05326905
A stirred suspension of 3.0 g (14 mmol) of 4-(bromomethyl)benzoic acid and 3.5 ml (41 mmol) of oxalyl chloride in 35 ml of dichloromethane was refluxed for 10 hours and cooled to room temperature. Evaporation afforded 4-(chloromethyl)benzoyl chloride as an oil which was used without purification. To a cooled (0° C.) solution of 2.6 g (14 mmol) of 4-(chloromethyl)benzoyl chloride and 2.0 g (18 mmol) of benzyl alcohol in 30 ml of dichloromethane was added 1.8 g (18 mmol) of triethylamine. The reaction was stirred at 0° C. for 0.2 hours, then at room temperature for an additional 1 hour and poured into 150 ml of EtOAc. The EtOAc layer was with three portions of water, dried over Na2SO4, filtered and evaporated. The crude product was flash chromatographed (5% EtOAc/hexanes) to give 0.7 g of product; m.p. 52°-54° C.

reactant | 4-(bromomethyl)benzoic acid | 14 mmol, 3.0 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | oxalyl chloride | 41 mmol, 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
